US04929637
Step F: Preparation of 4-(2-Hydroxyethyl)-5-methylsulfonylthiophene-2-sulfonamide
The 4-[2-(methoxyethoxymethoxy)ethyl]-5-methylsulfonylthiophene-2-sulfonamide (6.6 g, 0.0177 mol) was dissolved in methanol (25 ml) and was stirred at room temperature as cold 50% (v/v) sulfuric acid (40 ml) was added dropwise over 10 minutes. An additional quantity of methanol (25 ml) was added to dissolve the gum which separated and the solution was stirred for 1/2 hour. The solution was basified with sodium hydroxide and was washed with ether. The solution was acidified with HCl and was extracted with CHCl3 and then with ethyl acetate. The ethyl acetate extract was washed with saturated NaCl solution, dried over anhydrous Na2SO4, filtered and concentrated in vacuo at room temperature to give 4.1 g of crude oil which was chromatographed on silica gel (100 g) eluting with 5% methanol in chloroform. There was recovered 2.5 g of white solid which provided 1.5 g of analytically pure, material, m.p. 120-124° C.

reactant | 4-[2-(methoxyethoxymethoxy)ethyl]-5-methylsulfonylthiophene-2-sulfonamide | 0.0177 mol, 6.6 g | COCCOCOCCC=1C=C(SC1S(=O)(=O)C)S(=O)(=O)N | C11H19NO7S3
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 4-(2-Hydroxyethyl)-5-methylsulfonylthiophene-2-sulfonamide | 4.1 g | OCCC=1C=C(SC1S(=O)(=O)C)S(=O)(=O)N | C7H11NO5S3
